US07094801B2
Ex-46A: 5-Bromo-2,4-dimethoxybenzaldehyde (4.92 g, 20.1 mmol) was dissolved in benzene (41 mL). Ethylene glycol (3 mL, 54 mmol) and p-toluenesulfonic acid (25 mg, 0.13 mmol) were added and the solution was refluxed with a Dean-Stark trap attached. After 6 h, the reaction was cooled and washed with water (1×20 mL), saturated, aqueous NaHCO3 (1×20 mL), and water (1×20 mL). The organic phase was dried over sodium sulfate, filtered, concentrated, and dried to provide 5.32 g of 2-(5-bromo-2,4-dimethoxy-phenyl)-[1,3]dioxolane as a faint yellow oil which solidified upon standing (92% yield). 1H-NMR (CDCl3) δ 7.67 (s, 1H), 6.47 (s, 1H), 6.06 (s, 1H), 4.11–4.13 (m, 2H), 3.98–4.03 (m, 2H), 3.91 (s, 3H), 3.87 (s, 3H). HRMS (ES+) Calcd. for C11H13BrO4: 289.0075. Found: 289.0077.

reactant | 5-Bromo-2,4-dimethoxybenzaldehyde | 20.1 mmol, 4.92 g | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | Ethylene glycol | 54 mmol, 3 mL | C(CO)O | C2H6O2
solvent | benzene | 41 mL | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid | 0.13 mmol, 25 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(5-bromo-2,4-dimethoxy-phenyl)-[1,3]dioxolane | 5.32 g, 92% yield | BrC=1C(=CC(=C(C1)C1OCCO1)OC)OC | C11H13BrO4
